Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Bactrim
 
Attending: ___.
 
Chief Complaint:
abdominal pain and hypotension
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ with pmh of DM, HLD, HTN, depression/anxiety/schizophrenia 
(currently off psych meds), asthma, and fibroids who presents 
with 3 days of crampy abdominal pain associated with anorexia. 
Abdominal pain started ___, described as "someone punching 
me," ___ in intensity, located centrally but diffusely sore 
throughout abdomen, comes and goes, and associated with diarrhea 
(soft stools, 9/day). BMs relieve pain; exacerbated by movement. 
Denies constipation, denies melena/BRBPR. Denies sick contacts. 
Denies f/c, lightheadedness. Associated with mild nausea (no 
vomiting) and decreased appetitie (only taking in PO liquids). 
No fam hx of Crohns. She was seen at her PCP's office today 
where she was reportedly hypotensive to 90/66 with HR 100. 
Referred to ED for further eval. Of note, last PCP notes state 
that pt has been off psych meds for months (includes Paroxetine, 
Zyprexa; Dr ___ at ___. Denies depression, SI/HI, 
ingestion of dangerous substances. Occassional Motrin, no 
Aspirin.  
In the ED intial vitals were: 7 98.2 82 123/65 18 99%. Exam 
notable for benign abdominal exam, guaiac postive stool, 
hemorrhoids on rectal exam. Labs significant for Na 132, K 3.0, 
Cr 1.8 from normal baseline. Bicarb 18. Lactate 1.5. Wet read of 
CT abdomen showed fat stranding, fascial thickening and 
prominent lymph nodes in the right lower quadrant which may be 
due to a terminal ileitis and/or cecitis; however, assessment is 
limited without IV or oral contrast. The presence of intramural 
fat within the terminal ileum and cecum also suggests underlying 
chronic inflammation of these regions. Patient was given 1L NS, 
1L LR. Dilaudid for pain. Vitals on transfer: 98 78 125/88 15 
99% RA  
On the floor, abdominal pain is ___ and slightly better however 
she feels like she needs to have a BM.  
 
Past Medical History:
1. Asthma  
2. HLD  
3. Diabetes mellitus  
4. Depression/Anxiety/Schizophrenia  
5. HTN  
6. Chronic low back pain  
7. Fibroids  
8. DMII  
9. H/o PID  
 
Social History:
___
Family History:
Father- ___, unknown  
Mother- Cancer of unknown type, HTN  
Siblings- DM, HTN  
Children- Mental Illness  
 
Physical Exam:
ADMISSION PHYSICAL EXAM:
Vitals- 98.5 132/60 81 18 100%RA  
General- Alert, oriented, no acute distress  
HEENT- Muddy clera, MMM, oropharynx clear  
Neck- Supple, JVP not elevated, no LAD  
Lungs- CTAB, no wheezes, rales, ronchi  
CV- Regular rate and rhythm, normal S1 + S2, systolic ejection 
murmu, rubs, gallops  
Abdomen- Soft, TTP in RLQ, non-distended, bowel sounds present, 
no rebound tenderness or guarding, no organomegaly  
GU- No foley  
Ext- Warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema  
Neuro- CNs2-12 intact, motor function grossly normal  

DISCHARGE PHYSICAL EXAM:
VS: 98.3 130/63 81 18 100% RA
GEN: No acute distress, very pleasant and conversant
HEENT: anicteric, EOMI
NECK: supple without adenopathy
CHEST: clear to auscultation bilaterally without adventitious 
sounds
HEART: RRR with normal S1 and S2, ___ systolic ejection murmur 
noted along left sternal border without radiation, no rub or 
gallop
ABDOMEN: soft, nondistended, +BS diffusely, no tenderness to 
percussion, minimal tenderness to palpation in mid abdomen 
without rebound tenderness or guarding
EXT: WWP, 2+ radial and DP pulses, no edema
NEURO: grossly normal
 
Pertinent Results:
PERTINENT LABS:

___ 07:30PM BLOOD WBC-6.6 RBC-3.50* Hgb-11.8* Hct-36.6 
MCV-105* MCH-33.6* MCHC-32.2 RDW-13.3 Plt ___
___ 07:30PM BLOOD Neuts-68 Bands-1 Lymphs-17* Monos-10 
Eos-4 Baso-0 ___ Myelos-0
___ 07:30PM BLOOD Hypochr-NORMAL Anisocy-NORMAL 
Poiklo-OCCASIONAL Macrocy-OCCASIONAL Microcy-NORMAL 
Polychr-NORMAL
___ 07:30AM BLOOD WBC-5.8 RBC-3.12* Hgb-10.7* Hct-32.3* 
MCV-104* MCH-34.2* MCHC-33.0 RDW-13.8 Plt ___
___ 07:20AM BLOOD WBC-4.4 RBC-3.09* Hgb-10.5* Hct-32.2* 
MCV-104* MCH-33.9* MCHC-32.6 RDW-13.2 Plt ___

___ 07:30PM BLOOD Glucose-133* UreaN-15 Creat-1.8* Na-132* 
K-3.0* Cl-94* HCO3-18* AnGap-23*
___ 07:20AM BLOOD Glucose-198* UreaN-6 Creat-0.6 Na-136 
K-4.0 Cl-101 HCO3-25 AnGap-14
___ 07:30PM BLOOD Osmolal-271*
___ 07:30AM BLOOD Calcium-8.3* Phos-2.6*# Mg-1.7
___ 07:20AM BLOOD Mg-1.9

___ 07:30PM BLOOD ALT-15 AST-33 AlkPhos-67 TotBili-0.4
___ 07:30PM BLOOD Lipase-144*
___ 07:30PM BLOOD Albumin-4.0

___ 07:30PM BLOOD VitB___-___

___ 07:30AM BLOOD CRP-179.3*
___ 07:20AM BLOOD CRP-76.8*

___ 08:49PM BLOOD Lactate-1.5

IMAGING:
___ CT AP without contrast
IMPRESSION:  
1. Fat stranding, fascial thickening and prominent lymph nodes 
in the right
lower quadrant may be due to a terminal ileitis and/or cecitis; 
however,
assessment of the bowel is limited without IV or oral contrast. 
The presence
of intramural fat within the terminal ileum and cecum also 
suggests underlying
chronic inflammation of these regions.  No free fluid or free 
air.  
 
2. Chronic findings include hepatic steatosis, atherosclerois 
and fibroid
uterus.

 
Brief Hospital Course:
___ with DM, HLD, HTN, and history of multiple psychiatric 
issues currently not prescribed any medications who presents 
with abdominal pain associated with peritoneal signs on exam 
without fever or leukocytosis and improved with bowel movements, 
several diarrhea bowel movements per day and CT findings 
consistent with ileitis/cecitis.

# Gastroenteritis
Differential initially broad and included viral and bacterial 
gastroenteritis, appendicitis, inflammatory bowel disease and 
irritable bowel syndrome. She was initially started on admission 
on flagyl, but this was held given lack of fever, leukocytosis 
or bloody diarrhea. Normal colonoscopy in ___ argued 
against IBD and colonic malignancy, and acute appendicitis was 
also felt unlikely given lack of fever or leukocytosis. CRP 
noted to be 179.3, concerning for severe infection, 
rheumatologic disease or infection. Clinical picture of 
abdominal pain improved with bowel movement could be suggestive 
of IBS. CT imaging only revealed terminal ileitis/cecitis, with 
possible chronic inflammation in that area. After IVF and pain 
management with 2.5-5 mg oral oxycodone, Ms. ___ abdominal 
pain, diarrhea and abdominal exam improved rapidly over the 
course of two days. Her CRP downtrended to 77 in two days. Given 
her overall improvement, and stable vital signs and labs 
throughout her inpatient stay, she was discharged to home with 
instructions to call her PCP for close ___ as an 
outpatient or if her symptoms became worse.

# Hypotension
Resolved upon admission, IV fluids were administered over the 
course of her inpatient stay.

# ___
Labs consistent with pre-renal etiology in the setting of poor 
PO intake over past few days. Cr improved with IVF and was back 
to her baseline at the time of discharge. She was tolerating 
adequate fluid intake at the time of discharge and was 
instructed to continue this.

# anion gap metabolic acidosis
Noted on chemistry panel upon admission, etiology not entirely 
clear given negative urine ketones and normal serum lactate, 
lack of uremia, no serum osmolar gap and no history of 
salicylate use. Gap presumed to be from undetected ketones in 
the setting of recent poor PO intake. Anion gap improved with 
fluid resuscitation.

# Macrocytic anemia
This is a chronic issue that was stable during her inpatient 
stay. 

# Hypertension
Lisinopril held in setting ___ and reports of hypotension. 
This was restarted upon discharge. 

# Hyperlipidemia
Her home dose of rosuvastatin was continued while inpatient.

# Transitional issues
- needs CRP rechecked to ensure that it continues to trend down
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Rosuvastatin Calcium 40 mg PO DAILY 
2. Lisinopril 5 mg PO DAILY 

 
Discharge Medications:
1. Rosuvastatin Calcium 40 mg PO DAILY 
2. Lisinopril 5 mg PO DAILY 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary Diagnosis:
Viral Gastroenteritis
Secondary Diagnosis:
Schizophrenia
Hyperlipidemia
Diabetes Mellitus

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms ___, 

You were admitted with abdominal pain and diarrhea. We performed 
a CT scan, which showed inflammation in your intestines. Lab 
testing did not show any evidence of bacterial infection and 
your symptoms rapidly improved. You likely had a viral 
gastroenteritis - in accordance with your wishes you are being 
discharged home to complete your recovery. Thank you for 
allowing us to participate in your care. 
 
Followup Instructions:
___